US07776830B2
4-(1-Hydroxy-cyclopropyl)-phenylboronic acid
A 3.0 M solution of ethylmagnesium bromide in diethylether (7.6 mL) is added to a stirred solution of titanium(IV) isopropoxide (2.2 mL) in diethylether (70 mL) chilled to −78° C. The resultant solution is stirred at −78° C. for 1.5 h, before 4-(4,4,5,5-tetramethyl-[1,3,2]dioxa borolan-2-yl)-benzoic acid methyl ester (2.0 g) is added. The reaction mixture is warmed to ambient temperature and stirred for an additional 12 h. Then, 1 M aqueous hydrochloric acid is added and the resulting mixture is extracted with ethyl acetate. The combined organic extracts are dried (sodium sulphate) and the solvent is evaporated. The residue is dissolved in acetone (60 mL) and 0.1 M aqueous NH4OAc solution (50 mL) followed by NalO4 (2.3 g) is added. The resulting reaction mixture is stirred at room temperature for 18 h. After removal of the acetone, the residue is extracted with ethyl acetate. The combined extracts are dried (sodium sulphate) and the solvent is evaporated. The residue is purified by chromatography on silicagel (cyclohexane/ethyl acetate).

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxa borolan-2-yl)-benzoic acid methyl ester | 2.0 g | COC(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C14H19BO4
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | diethylether | 7.6 mL | C(C)OCC | C4H10O
solvent | diethylether | 70 mL | C(C)OCC | C4H10O
catalyst | titanium(IV) isopropoxide | 2.2 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 4-(1-Hydroxy-cyclopropyl)-phenylboronic acid | OC1(CC1)C1=CC=C(C=C1)B(O)O | C9H11BO3
